*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-02[uF]/16[V]
* Murata P/N :GRM15XR71C103MA86
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR71C103MA86 Port1 Port2
C01 Port1 N01 1.01e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 2.10e-10
R03 N02 N03 8.77e-02
C04 N03 N04 1.43e-06
R04 N03 N04 2.59e+03
C05 N04 N05 1.73e-06
R05 N04 N05 3.11e+02
C06 N05 N06 1.58e-06
R06 N05 N06 4.61e+01
C07 N06 N07 1.34e-06
R07 N06 N07 7.48e+00
C08 N07 N08 9.48e-07
R08 N07 N08 1.07e+00
C09 N08 N09 7.62e-07
R09 N08 N09 1.51e-01
C10 N09 N10 4.37e-07
R10 N09 N10 4.33e-02
L11 N10 N11 3.12e-11
R11 N10 N11 3.13e-01
L12 N11 N12 2.61e-11
R12 N11 N12 8.93e-02
C13 N12 N13 5.05e-09
L13 N12 N13 2.07e-11
R13 N12 N13 4.98e-02
C14 N13 Port2 5.57e-12
L14 N13 Port2 5.36e-11
R14 N13 Port2 1.26e+01
.ENDS GRM15XR71C103MA86
